US06599917B1
a) 6-Chloro-3-(α-hydroxybenzyl)-2-methoxypyridine
100 ml of a pentane solution containing 1.56 mol of tert-butyllithium was slowly added dropwise into a solution of 200 ml of tetrahydrofuran containing 11.9 ml of 2-bromomesitylene at −78° C. under cooling. After stirring at the same temperature for one hour, 7.2 ml of 2-chloro-6-methoxypyridine was slowly added dropwise thereinto. After stirring under ice-cooling for one hour and then at room temperature for one hour, 8.5 ml of benzaldehyde was added thereto under ice-cooling, followed by stirring at room temperature for further one hour. Water was added to the reaction solution, followed by extracting with ethyl acetate. The organic phase was washed with brine and the solvent was removed. The residue was subjected to silica gel column chromatography and eluted with hexane and then with hexane/ethyl acetate (7:1), to give 15.0 g of the target compound.

reactant | tert-butyllithium | 1.56 mol | C(C)(C)(C)[Li]
reactant | 2-bromomesitylene | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | 2-chloro-6-methoxypyridine | 7.2 ml | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | benzaldehyde | 8.5 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | Water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | pentane | 100 ml | CCCCC | C5H12
product | 6-Chloro-3-(α-hydroxybenzyl)-2-methoxypyridine | 15.0 g | ClC1=CC=C(C(=N1)OC)C(C1=CC=CC=C1)O | C13H12ClNO2
